US06228859B1
3-(3-Benzyloxy-4-methoxy-benzyl)-8-isopropyl-2-thioxanthine (21.83 g, 50 mmole) was heated under reflux in 1-propanol (700 ml) with Raney-nickel (30 g) (pre-treated with 0.1% of aqueous acetic acid). After 4 hours the nickel was filtered off and washed with hot propanol and chloroform. The solution was evaporated to dryness in vacuo. The residue was dissolved in chloroform, extracted with IM sodium carbonate solution, dried (Na2SO4), treated twice with charcoal (0.8 g), filtered and evaporated to dryness in vacuo. The residue was suspended in hot acetone (250 ml), concentrated and the solid collected at 0-5° C. to give 3-(3-benzyloxy-4-methoxy-benzyl)-8-isopropyl-hypoxanthine (15.27 g, 75.5%), mp 233-235° C.

reactant | 3-(3-Benzyloxy-4-methoxy-benzyl)-8-isopropyl-2-thioxanthine | 50 mmole, 21.83 g | C(C1=CC=CC=C1)OC=1C=C(CN2C(NC(C=3NC(=NC23)C(C)C)=O)=S)C=CC1OC | C23H24N4O3S
solvent | 1-propanol | 700 ml | C(CC)O | C3H8O
catalyst | Raney-nickel | 30 g | [Ni] | Ni
product | 3-(3-benzyloxy-4-methoxy-benzyl)-8-isopropyl-hypoxanthine | 15.27 g, 75.5% | C(C1=CC=CC=C1)OC=1C=C(CN2C=NC(C=3NC(=NC23)C(C)C)=O)C=CC1OC | C23H24N4O3
